US06291432B1
(R)-N-(2-methylbenzyl)-3-{(2S,3S)-2-hydroxy-3-[N-(methoxycarbonyl)-L-asparaginyl]amino-4-phenylbutanoyl}-5,5-dimethyl-1,3-thiazolidine-4-carboxamide (MeO-CO-Asn-Apns-Dmt-NHBzl(2-Me))
4N HCl/dioxane (2 ml) was added to the compound Boc-Asn-Apns-Dmt-NHBzl(2-Me) (70 mg) obtained in the step 1 of Example 6 and the mixture was stirred for two hours. After concentration, the reaction mixture was dissolved in DMF (1 ml) and neutralized with triethylamine (15 μl). After the addition of methyl chloroformate (9 μl ) and triethylamine (16 μl), the mixture was stirred for two hours. After the addition of ethyl acetate, the reaction mixture was washed with 3% Na2CO3, 1N HCl, and 5% NaCl and dried over MgSO4. After filtration and concentration, the residue was purified using silica gel column chromatography to obtain the title compound (15 mg).

reactant | HCl dioxane | 4N, 2 ml | Cl.O1CCOCC1
reactant | (R)-N-(2-methylbenzyl)-3-{(2S,3S)-3-[N-(tert-butoxycarbonyl)-L-asparaginyl]amino-2-hydroxy-4-phenylbutanoyl}-5,5-dimethyl-1,3-thiazolidine-4-carboxamide | 70 mg | CC1=C(CNC(=O)[C@H]2N(CSC2(C)C)C([C@H]([C@H](CC2=CC=CC=C2)NC([C@@H](NC(=O)OC(C)(C)C)CC(N)=O)=O)O)=O)C=CC=C1 | C33H45N5O7S
product | (R)-N-(2-methylbenzyl)-3-{(2S,3S)-2-hydroxy-3-[N-(methoxycarbonyl)-L-asparaginyl]amino-4-phenylbutanoyl}-5,5-dimethyl-1,3-thiazolidine-4-carboxamide | 15 mg | CC1=C(CNC(=O)[C@H]2N(CSC2(C)C)C([C@H]([C@H](CC2=CC=CC=C2)NC([C@@H](NC(=O)OC)CC(N)=O)=O)O)=O)C=CC=C1 | C30H39N5O7S
